US04720517
Bromoacetylchloride (52.11 grams) is added dropwise into a stirred solution of 89.27 grams of octadecanol and 50 ml of triethylamine in 400 ml of methylene chloride at 25°-30° C. After stirring the reaction mixture at room temperature overnight under N2, the mixture is filtered and the filtrate is concentrated under reduced pressure. Purification by liquid chromatography affords octadecyl bromoacetate as a white solid, mp 37°-40° C.

reactant | Bromoacetylchloride | 52.11 grams | BrCC(=O)Cl | C2H2BrClO
reactant | octadecanol | 89.27 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | octadecyl bromoacetate | BrCC(=O)OCCCCCCCCCCCCCCCCCC | C20H39BrO2
